US06284785B1
(RS)-1-(4-Chloro-benzenesulfonyl)-2-thien-2-yl-pyrrolidine
The title compound, white solid, m.p. 84° C. and MS: m/e=328.1 (M+H+) was prepared in accordance with the general method of example 1e from (RS)-2-thien-2-yl-pyrrolidine and 4-chloro-benzenesulfonyl chloride.

reactant | (RS)-2-thien-2-yl-pyrrolidine | S1C(=CC=C1)C1NCCC1 | C8H11NS
reactant | 4-chloro-benzenesulfonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | (RS)-1-(4-Chloro-benzenesulfonyl)-2-thien-2-yl-pyrrolidine | ClC1=CC=C(C=C1)S(=O)(=O)N1C(CCC1)C=1SC=CC1 | C14H14ClNO2S2
